US05374625
In an atmosphere of argon gas, 9-[(1R,2R,4S,5S)-4,5-bis(benzoyloxymethyl)-2-hydroxycyclohexyl]-adenine (151 mg, 0.3 mmole) was dissolved into acetonitrile (5 ml), to which were then added 4-dimethylaminopyridine (75.1 mg, 0.62 mmole) and phenyloxythiocarbonyl chloride (57 μl, 0.33 mmole). After stirring the resulting mixture at room temperature for 24 hours. 0.1M aqueous solution of sodium hydrogen carbonate was added to the reaction mixture, and the mixture was subjected to extraction with ethyl acetate. The extract solution was washed with water and then with saturated aqueous solution of sodium chloride and dried on anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride:methanol=50:1, v/v) to obtain 9-[(1R,2R,4S,5S)-4,5-bis(benzoyloxymethyl)-2-(phenoxythiocarbonyloxy)cyclohexyl]-adenine (109 mg, Yield 56.8%).

reactant | 9-[(1R,2R,4S,5S)-4,5-bis(benzoyloxymethyl)-2-hydroxycyclohexyl]-adenine | 0.3 mmole, 151 mg | C(C1=CC=CC=C1)(=O)OC[C@H]1C[C@H]([C@@H](C[C@@H]1COC(C1=CC=CC=C1)=O)N1C2=NC=NC(=C2N=C1)N)O | C27H27N5O5
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | phenyloxythiocarbonyl chloride | 0.33 mmole, 57 μl | C1(=CC=CC=C1)OC(=S)Cl | C7H5ClOS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.62 mmole, 75.1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | CO | CH4O
product | 9-[(1R,2R,4S,5S)-4,5-bis(benzoyloxymethyl)-2-(phenoxythiocarbonyloxy)cyclohexyl]-adenine | 109 mg, Yield 56.8% | C(C1=CC=CC=C1)(=O)OC[C@H]1C[C@H]([C@@H](C[C@@H]1COC(C1=CC=CC=C1)=O)N1C2=NC=NC(=C2N=C1)N)OC(=S)OC1=CC=CC=C1 | C34H31N5O6S
